US05173493
A mixture of 8,9-dihydro-10-methyl-7-(dimethylaminomethyl)pyrido[1,2-a]indol-6(7H)-one (0.65 g), 2-methylimidazole (0.76 g), 2N hydrochloric acid (1.27 ml), and isopropyl alcohol (4 ml) was heated at 100° C. for 3 hours and 15 minutes. After evaporation of the solvent, the residue obtained was dissolved in methylene chloride. The methylene chloride solution was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. Purification with neutral alumina column chromatography (0.5% methanol-methylene chloride), followed by recrystallization with ethyl acetate-hexane, gave 8,9-dihydro-10-methyl-7-[(2-methyl-1H-imidazol-1-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (0.40 g).

reactant | 8,9-dihydro-10-methyl-7-(dimethylaminomethyl)pyrido[1,2-a]indol-6(7H)-one | 0.65 g | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CN(C)C)=O | C16H20N2O
reactant | 2-methylimidazole | 0.76 g | CC=1NC=CN1 | C4H6N2
reactant | hydrochloric acid | 2N, 1.27 ml | Cl | ClH
reactant | isopropyl alcohol | 4 ml | C(C)(C)O | C3H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 8,9-dihydro-10-methyl-7-[(2-methyl-1H-imidazol-1-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 0.40 g | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CN2C(=NC=C2)C)=O | C18H19N3O
